Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
s/p tPA transfer.

 
Major Surgical or Invasive Procedure:
tPA administration at ___

 
History of Present Illness:
Mrs. ___ is a ___ right handed woman with a past
medical history of hypertension and "fibrillation" who presents
s/p tPA for sudden onset aphasia and right facial droop s/p tpa
at 1615.

History gathered from the patient and husband who is at bedside.

Essentially, she was at her baseline state of health this 
morning
and doing well.  Her husband returned from the store at around 
3pm
and she was well.  They were having a conversation at 1505 when
mid sentence "Is the Christmas card to ___ she trailed
off and became acutely aphasic with a right facial droop.  At
that time her husband denies evidence of weakness in the arms or
legs and reports the patient was spontaneously ambulating.  She
was reportedly not following commands or producing recognizable
speech at that time.
  
EMS was called and she was taken to ___.  There, a code
stroke was called, but documentation NIHSS was 18 for "speech
slurred, dysarthric. significant R sided weakness and R facial
droop."  Further details are unavailable.  NCHCT was without
acute infarction.  She received tPA bolus at 4:15pm and was
transferred for further management.

Despite reported ___ of 18, husband cannot recall any weakness 
of
arm or leg.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.
 
Past Medical History:
- Hypertension
- ? Atrial Fibrillation
- Prior Pelvic Fracture

 
Social History:
___
Family History:
- Mother with a stroke later in her life.
 
Physical Exam:
Physical Exam:
Vitals: 
80 158/67 16 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND.
Extremities: WWP.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with
interjections from husband. ___, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. 

There were infrequent paraphasic errors made during naming 
tasks.
From NIHSS she cannot recall name of cactus.  She calls feather 
a
leaf.  Able to read simple sentences without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.  2
right-left errors made, but spontaneously corrects.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF grossly intact to confrontation
(but consistently looks to finger). 
V: V1-V3 intact.
VII: Clear right NLF flattenting with decreased activation with
smile
VIII: Hearing intact to room voice.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline and deviates side to side w/o
difficulty.

-Motor: Normal bulk, inc tone in her lower ext, but normal in
uppers. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5  
R  5    ___   ___  5   5    5  5     5     5  

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  1    1    2   1
R  2  1    1    2   1
Plantar response was upgoing bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

Discharge Exam
================
VS 98.1 140-170s/50-70s 60-80s ___ 95-98RA FSG ___
Gen NAD
CV regular rate 
Pulm nonlabored breathing
Abd soft NTND
Extr wwp 

CN EOMI, face symmetric, symmetric palate elevation
motor full throughout except 5- in interosseus msucles
proprioception, light touch sensation grossly intact
FNF intact, mild action tremor
 
Pertinent Results:
Labs
=======

___ 05:05PM   CREAT-0.9
___ 05:05PM   estGFR-Using this
___ 05:01PM   COMMENTS-GREEN TOP
___ 05:01PM   GLUCOSE-77 NA+-140 K+-3.5 CL--104 TCO2-25
___ 04:55PM   UREA N-12
___ 04:55PM   WBC-6.5 RBC-3.95 HGB-12.8 HCT-37.1 MCV-94 
MCH-32.4* MCHC-34.5 RDW-13.0 RDWSD-44.7
___ 04:55PM   PLT COUNT-177
___ 04:55PM   ___ PTT-27.1 ___
 
Brief Hospital Course:
Mrs. ___ is a ___ right handed woman with a past 
medical history of hypertension and "fibrillation" who presents 
s/p tPA for sudden onset aphasia and right facial droop s/p tpa 
at 1615.

Initially her aphasia was mixed and near complete, with likely 
right sided weakness (though husband cannot recall this).  her 
initial NIHSS was documented at 18, but significantly improved 
s/p tPA.  Exam upon arrival to ___ was notable for mild right 
UMN facial weakness and mild language deficits (such as missing 
one picture on the stroke card and having occasional word 
finding difficulty).

The patient was admitted to the neuro ICU for post tPA care. She 
was started on apixiban given her likely history of afib and 
cardioembolic stroke.

Patient was transferred to neurology service. On telemetry 
patient was tachycardic to 140s, likely afib w RVR on EKG 
however remained asymptomatic, BP stable and responsive to 5mg 
IV Lopressor. Exam on floor notable for only mild weakness of 
interosseous muscles otherwise neurologically intact. Patient 
remained hemodynamically stable, discharged on metroprolol XL 
25mg and apixaban.

Transitional Issues
=====================
-patient started on Apixaban and metoprolol XL 25mg for rate 
control
-to follow up with Dr. ___ in neurology clinic and follow 
with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1
2. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left precentral gyrus punctate infarct
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after a sudden onset of inability to 
speak and right facial droop. You were administered a clot 
busting medication after which your symptoms dramatically 
improved. Imaging of your brain revealed a very tiny stroke. The 
source of your symptoms is likely a clot from your heart that 
went to your brain. You are being started on a new blood 
thinning medication (Apixaban) and a low dose of a medication to 
control your heart rates. 

Medication changes
1. START Apixaban 5mg twice a day
2. START Metoprolol XL 25mg once a day
 
Followup Instructions:
___